US08835488B2
LAH (1M in Et2O, 20 ml, 20 mmol) was added to a solution of 2-[(9R)-9-(pyridin-2-yl)-6-oxaspiro[4.5]decan-9-yl]acetonitrile (2.56 g, 10 mmol) in Et2O (100 ml, 0.1M) at 0° C. under N2. The resulting mix was stirred and allowed to warm to room temperature. After 2 h, LCMS showed the reaction had completed. The reaction was cooled at 0° C. and quenched with water (1.12 ml), NaOH (10%, 2.24 ml) and another 3.36 ml of water. Solid was filtered and filter pad was washed with ether (3×20 ml). The combined organic was dried and concentrated to give 2-[(9R)-9-(Pyridin-2-yl)-6-oxaspiro[4.5]decan-9-yl]ethan-1-amine (2.44 g, 94% yield, m/z 260.6 [M+H]+ observed) as a light amber oil.

reactant | LAH | 20 mmol, 1M, 20 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-[(9R)-9-(pyridin-2-yl)-6-oxaspiro[4.5]decan-9-yl]acetonitrile | 10 mmol, 2.56 g | N1=C(C=CC=C1)[C@@]1(CCOC2(CCCC2)C1)CC#N | C16H20N2O
solvent | Et2O | 0.1M, 100 ml | CCOCC | C4H10O
product | 2-[(9R)-9-(Pyridin-2-yl)-6-oxaspiro[4.5]decan-9-yl]ethan-1-amine | 2.44 g, 94% yield | N1=C(C=CC=C1)[C@@]1(CCOC2(CCCC2)C1)CCN | C16H24N2O
